US07795315B2
5-(4-Bromo-phenyl)-5-methyl-1-(2-morpholin-4-yl-ethyl)-2-phenyl-3-(4-trifluoromethyl-phenyl)-imidazolidin-4-one
To a solution of 5-(4-bromo-phenyl)-1-(2-morpholin-4-yl-ethyl)-2-phenyl-3-(4-trifluoromethyl-phenyl)-imidazolidin-4-one (2.30 g, 4.00 mmol) in anhydrous THF (40 mL) at −78 degrees Celcius was added lithium diisopropylamide (5.3 mL, 1.5M solution of LDA in cyclohexane) and this stirred for 1 h. Methyl iodide (1.13 g, 8.00 mmol) was then added at −78 degrees Celcius and the reaction allowed to warm to room temperature over 2 hours. The reaction was then quenched with 2 equivalents of formic acid followed by NH3.H2O to basify the solution, diluted with ethyl acetate, washed with water and brine, and then dried over Na2SO4. After filtering and concentrating in vacuo, the crude product was purified by flash column chromatography eluting with ethyl acetate:petroleum ether gradient (10%-50%) to afford the product as a pale yellow solid (1.0 g, 43%).

reactant | 5-(4-bromo-phenyl)-1-(2-morpholin-4-yl-ethyl)-2-phenyl-3-(4-trifluoromethyl-phenyl)-imidazolidin-4-one | 4.00 mmol, 2.30 g | BrC1=CC=C(C=C1)C1C(N(C(N1CCN1CCOCC1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C28H27BrF3N3O2
reactant | lithium diisopropylamide | 1.5M, 5.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl iodide | 8.00 mmol, 1.13 g | CI | CH3I
reactant | formic acid | 2 equivalents | C(=O)O | CH2O2
reactant | NH3.H2O | N.O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-Bromo-phenyl)-5-methyl-1-(2-morpholin-4-yl-ethyl)-2-phenyl-3-(4-trifluoromethyl-phenyl)-imidazolidin-4-one | 1.0 g, 43% | BrC1=CC=C(C=C1)C1(C(N(C(N1CCN1CCOCC1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O)C | C29H29BrF3N3O2
